US07592477B2
Step a) Formation of N-[2-(1,1′-biphenyl-4-yl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 2-(1,1′-biphenyl-4-yl)ethylamine gave the title compound as an oil.

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 2-(1,1′-biphenyl-4-yl)ethylamine | C1(=CC=C(C=C1)CCN)C1=CC=CC=C1 | C14H15N
product | N-[2-(1,1′-biphenyl-4-yl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | C1(=CC=C(C=C1)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)C1=CC=CC=C1 | C34H43N3O
